US06359134B1
A THF (10 ml) solution of 2-naphthalenesulfonylchloride (23 g, 101 mmol) was added dropwise to a THF (100 ml) solution of 1-formylpiperazine (11.4 g, 100 mmol) and triethylamine (15 g, 150 mmol) under ice-cooling. The solution was stirred at room temperature for 30 minutes, and concentrated. The residue was washed with water and diisopropylether and dried under reduced pressure to give 1-formyl-4-(2-naphthalenesulfonyl)piperazine.

reactant | 2-naphthalenesulfonylchloride | 101 mmol, 23 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | 1-formylpiperazine | 100 mmol, 11.4 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | triethylamine | 150 mmol, 15 g | C(C)N(CC)CC | C6H15N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-formyl-4-(2-naphthalenesulfonyl)piperazine | C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C15H16N2O3S
